US07230031B2
Ethyl N-[7-(3-ethyl-4-hydroxy-2-methylphenoxy)-6-methylindan-4-yl]oxamate (Compound 23)
To 4-(7-amino-5-methylindan-4-yloxy)-2-ethyl-3-methylphenol (12 mg) was added diethyl oxalate (150 mg), and the mixture was stirred under an argon atmosphere at 120° C. for 3 hours. The reaction mixture was purified by thin layer chromatography on silica gel (developing solvent: hexane/ethyl acetate=2/1) to give the title compound (15 mg).

reactant | 4-(7-amino-5-methylindan-4-yloxy)-2-ethyl-3-methylphenol | 12 mg | NC=1C=C(C(=C2CCCC12)OC1=C(C(=C(C=C1)O)CC)C)C | C19H23NO2
reactant | diethyl oxalate | 150 mg | C(C(=O)OCC)(=O)OCC | C6H10O4
product | Ethyl N-[7-(3-ethyl-4-hydroxy-2-methylphenoxy)-6-methylindan-4-yl]oxamate | 15 mg | C(C)C=1C(=C(OC=2C(=CC(=C3CCCC23)NC(C(=O)OCC)=O)C)C=CC1O)C | C23H27NO5
